US05814634
By using 1-isobutylpiperazine (2.84 g) and bromoacetonitrile(2.40 g), as in the case of Reference Example 28, 1.19 g (15%) of 4-(2-aminoethyl)-1-isobutylpiperazine was obtained.

reactant | 1-isobutylpiperazine | 2.84 g | C(C(C)C)N1CCNCC1 | C8H18N2
reactant | bromoacetonitrile | 2.40 g | BrCC#N | C2H2BrN
product | 4-(2-aminoethyl)-1-isobutylpiperazine | 1.19 g, 15% | NCCN1CCN(CC1)CC(C)C | C10H23N3
